US08957252B2
Preparation of (2R)-2-amino-N-benzyl-3-hydroxypropanamide.
In an autoclave charged (2R)-2-azido-N-benzyl-3-hydroxypropanamide (68.0 gms) in ethyl acetate (680 ml). Charged catalyst 5% Pd-C (6.85 gms) and closed the autoclave. Applied 3.8 kg Hydrogen pressure maintaining temperature at 25-30° C. and maintained the reaction mixture at 25-30° C. for 1.0 hour. After completion of the reaction, released Hydrogen pressure and flushed the autoclave with Nitrogen gas. Filtered the reaction mass through hyflo bed and washed hyflo bed with ethyl acetate. Concentrated filtrate under reduced pressure at 30-35° C. till two volumes of ethyl acetate remains in the reaction mixture. Removed vacuum and cooled the reaction mass to 0-5° C. and maintained for 2.0 hours. The reaction mass was filtered and washed with cold ethyl acetate (2×40 ml). Dried the product (2R)-2-amino-N-benzyl-3-hydroxypropanamide under vacuum at 25-30° C. till constant weight.

reactant | (2R)-2-azido-N-benzyl-3-hydroxypropanamide | 68.0 gms | N(=[N+]=[N-])[C@@H](C(=O)NCC1=CC=CC=C1)CO | C10H12N4O2
reactant | Hydrogen | 3.8 kg | [H][H] | H2
solvent | ethyl acetate | 680 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | 6.85 gms | [Pd] | Pd
product | (2R)-2-amino-N-benzyl-3-hydroxypropanamide | N[C@@H](C(=O)NCC1=CC=CC=C1)CO | C10H14N2O2
